US07432287B2
Preparation of 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(pyridin-2-yl)benzamide
The compound of Production Example 155 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-methanesulfonylpyridine, 1,3-difluoro-2-propanol and 2-aminopyridine, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-methanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
product | 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(pyridin-2-yl)benzamide | FCC(OC=1C=C(C=C(C(=O)NC2=NC=CC=C2)C1)OC=1C=NC(=CC1)S(=O)(=O)C)CF | C21H19F2N3O5S
